US04207343
Eight grams of sodium hydride were added slowly to a stirred mixture containing 72 g. of 1-phenyl-1-bromo-3-chloropropane and 50 g. of p-trifluoromethylphenol in 600 ml. of dimethylsulfoxide. The reaction temperature was maintained at about 30° C. with external cooling. After all the sodium hydride had been added, the reaction mixture was stirred overnight at room temperature and was then extracted with hexane. The hexane extract was separated, washed with water and dried. The hexane was removed by evaporation in vacuo. The residual oil distilled at about 110° C. at 1 torr. to give a mixture of 1-phenyl-1-(p-trifluoromethylphenoxy)propylchloride and 1-phenyl-3-(p-trifluoromethylphenoxy)-1-propene (see Sliwa et al, Bull. Soc. Chem. France, 1972, 1540 for the production of a similar compound by the reaction of the sodium salt of phenol and 1-phenyl-1-bromo-3-acetoxypropane to yield 1-phenyl-3-phenoxy-1-propene). The distillate was dissolved in a 1:1 hexane/ethyl acetate solvent mixture and the solution cooled. 1-Phenyl-3-(p-trifluoromethylphenoxy)-1-propene solidified and was separated by filtration from the propylchloride product which was an oil. About a 50% yield of the propene compound was obtained. Recrystallization from acetonitrile yielded crystalline 1-phenyl-3-(p-trifluoromethylphenoxy)-1-propene melting at 92°-94° C.

reactant | sodium hydride | Eight grams | [H-].[Na+]
reactant | 1-phenyl-1-bromo-3-chloropropane | C1(=CC=CC=C1)C(CCCl)Br | C9H10BrCl
reactant | p-trifluoromethylphenol | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | 1-phenyl-1-(p-trifluoromethylphenoxy)propylchloride | C1(=CC=CC=C1)C(CC)(OC1=CC=C(C=C1)C(F)(F)F)Cl | C16H14ClF3O
reactant | 1-phenyl-3-(p-trifluoromethylphenoxy)-1-propene | C1(=CC=CC=C1)C=CCOC1=CC=C(C=C1)C(F)(F)F | C16H13F3O
reactant | sodium | [Na] | Na
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | 1-phenyl-1-bromo-3-acetoxypropane | C1(=CC=CC=C1)C(CCOC(C)=O)Br | C11H13BrO2
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 1-phenyl-3-phenoxy-1-propene | C1(=CC=CC=C1)C=CCOC1=CC=CC=C1 | C15H14O
